US06921763B2
A mixture of 3-iodo-1-trityl-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.10 g, 0.19 mmol), N1-[2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-2-fluoro-4-trifluoromethylbenzamide (0.13 g, 0.29 mmol), tetrakis(triphenylphosphine)palladium(0) (0.01 g, 0.01 mmol) and sodium carbonate monohydrate (0.06 mg, 0.48 mmol) in water (2 mL) and ethylene glycol dimethyl ether (4 mL) was heated at 85° C. overnight. The solvents were removed under reduced pressure. Water was added into the residue and the mixture was extracted with ethyl acetate three times. The combined organics were washed with saturated aqueous sodium chloride solution, dried over magnesium sulfate, filtered and evaporated to yield a brown solid which was purified by flash column chromatography on silica using Isco system to provide N1-[4-(4-amino-1-trityl-1H-pyrazolo[3,4-d]pyrimidin-3-yl)-2-methoxyphenyl]-2-fluoro-4-trifluoromethylbenzamide (0.12 g, 0.17 mmol) as a white solid: 1H NMR (DMSO-d6, 400 MHz) δ 9.89 (dd, 1H), 8.25(d, 1H), 8.28 (s, 1H), 8.00 (t, 1H), 7.94 (s, 1H), 7.88 (d, 1H), 7.73 (d, 1H), 7.24 (m, 15H), 3.90 (s, 3H); MS: MH+ 689.

reactant | 3-iodo-1-trityl-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.19 mmol, 0.10 g | IC1=NN(C2=NC=NC(=C21)N)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C24H18IN5
reactant | N1-[2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-2-fluoro-4-trifluoromethylbenzamide | 0.29 mmol, 0.13 g | COC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)NC(C1=C(C=C(C=C1)C(F)(F)F)F)=O | C21H22BF4NO4
reactant | sodium carbonate monohydrate | 0.48 mmol, 0.06 mg | O.C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 2 mL | O | H2O
solvent | ethylene glycol dimethyl ether | 4 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.01 mmol, 0.01 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N1-[4-(4-amino-1-trityl-1H-pyrazolo[3,4-d]pyrimidin-3-yl)-2-methoxyphenyl]-2-fluoro-4-trifluoromethylbenzamide | 0.17 mmol, 0.12 g | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(C2=C(C=C(C=C2)C(F)(F)F)F)=O)OC)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C39H28F4N6O2
